* Z:\mnt\design.r\spice\examples\3430-1.asc
L1 N003 N002 30µ
C1 N005 0 2000p
C2 N003 N001 .33µ
D1 0 N003 MBRS340
C3 N002 0 100µ Rser=.1
R1 N002 N006 15.4K
R2 N006 0 4.99K
D2 N002 N001 1N914
V1 IN 0 20
Rload N002 0 1.5
XU1 0 N003 MP_01 IN MP_02 N001 MP_03 MP_04 MP_05 N002 N005 N006 MP_06 MP_07 N004 LT3430-1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LT3430-1.sub
.backanno
.end
